US07125589B1
First Step: Preparation of 4′-Bromo-2′,5′-difluoro-4-pentylbiphenyl
A mixture of 1-bromo-2,5-difluoro-4-iodbenzene (5.00 g, 15.68 mmol), 4-pentylphenylboronic acid (3.01 g, 15.67 mmol), potassium carbonate (3.25 g, 23.51 mmol), tetrabutylammonium bromide (1.26 g, 3.91 mmol), dichlorobis(triphenylphosphine)palladium (II) (0.55 g, 0.79 mmol), triphenylphosphine (0.41 g, 1.56 mmol), and a mixed solvent (toluene/water/ethanol=1/1/1, 100 ml) was refluxed for 32 hrs with stirring. The reaction mixture obtained was extracted with toluene (200 ml). The extract was washed with water (100 ml) twice and dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure gave a brown oil (5.72 g). The oil was distilled under reduced pressure and was purified by silica-gel chromatography (eluent; heptane, Rf=0.58) to give a colorless oil (2.31 g).

reactant | 1-bromo-2,5-difluoro-4-iodbenzene | 15.68 mmol, 5.00 g | BrC1=C(C=C(C(=C1)F)I)F | C6H2BrF2I
reactant | 4-pentylphenylboronic acid | 15.67 mmol, 3.01 g | C(CCCC)C1=CC=C(C=C1)B(O)O | C11H17BO2
reactant | potassium carbonate | 23.51 mmol, 3.25 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 3.91 mmol, 1.26 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | dichlorobis(triphenylphosphine)palladium | 0.79 mmol, 0.55 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 1.56 mmol, 0.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene water ethanol | C1(=CC=CC=C1)C.O.C(C)O
product | 4′-Bromo-2′,5′-difluoro-4-pentylbiphenyl | 5.72 g | BrC1=CC(=C(C=C1F)C1=CC=C(C=C1)CCCCC)F | C17H17BrF2
